US05371093
[2-Benzothiazolyl][1-(2-phenylethyl)-4-piperidinyl]methanone
Mix (2-benzothiazolyl)(4-piperidinyl)methanone.CF3CO2H (2.56 g, 7.13 mmol), 2-phenylethyl bromide (1.45 g, 7.84 mmol), 18-Crown-6 (188 mg, 0.71 mmol), potassium carbonate (9.85 g, 71.3 mmol) and methylene chloride (100 mL). Stir at room temperature under an argon atmosphere for 2 hours, then add potassium iodide (200 mg). Stir at room temperature for an additional 2 hours then heat a t reflux overnight. Add additional 2-phenylethyl bromide (1.45 g, 7.84 mmol) and heat at reflux overnight. Add additional 2-phenylethyl bromide (1.45 g, 7.84 mmol) and heat at reflux overnight. Cool the reaction to room temperature and pour into water (150 mL). Separate the organic phase, wash with water (100 mL) and dry (Na2SO4). Evaporate the solvent in vacuo and purify by chromatography (20% ethyl acetate/hexane with 2% triethylamine) to give the title compound as a yellow solid; mp 108.5°-109.5° C.

reactant | (2-benzothiazolyl)(4-piperidinyl)methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C13H14N2OS
reactant | CF3CO2H | 7.13 mmol, 2.56 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 2-phenylethyl bromide | 7.84 mmol, 1.45 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | 18-Crown-6 | 0.71 mmol, 188 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 71.3 mmol, 9.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 200 mg | [I-].[K+]
reactant | 2-phenylethyl bromide | 7.84 mmol, 1.45 g | C1(=CC=CC=C1)CCBr | C8H9Br
reactant | 2-phenylethyl bromide | 7.84 mmol, 1.45 g | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | water | 150 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | [2-Benzothiazolyl][1-(2-phenylethyl)-4-piperidinyl]methanone | S1C(=NC2=C1C=CC=C2)C(=O)C2CCN(CC2)CCC2=CC=CC=C2 | C21H22N2OS
